US07244726B2
tert-Butyl 4-(3-nitrobenzylidene)piperidine-1-carboxylate (D37)
A mixture of diethyl (3-nitrobenzyl)phosphonate (8.4 g, 0.031 mol) and tert-butyl 4-oxopiperidine-1-carboxylate (6.12 g, 0.031 mol) in dry tetrahydrofuran (120 mL) was treated with a 60% suspension of sodium hydride in oil (1.36 g, 0.034 mmol). The resulting mixture was stirred at room temperature for 4 h, then partitioned between dichloromethane (500 mL) and water (500 mL). The organic extract was dried (Na2SO4) and evaporated in vacuo to give the title compound (9.86 g, 100%) as a solid.

reactant | diethyl (3-nitrobenzyl)phosphonate | 0.031 mol, 8.4 g | [N+](=O)([O-])C=1C=C(CP(OCC)(OCC)=O)C=CC1 | C11H16NO5P
reactant | tert-butyl 4-oxopiperidine-1-carboxylate | 0.031 mol, 6.12 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | sodium hydride | [H-].[Na+]
solvent | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
product | tert-Butyl 4-(3-nitrobenzylidene)piperidine-1-carboxylate | 9.86 g, 100% | [N+](=O)([O-])C=1C=C(C=C2CCN(CC2)C(=O)OC(C)(C)C)C=CC1 | C17H22N2O4
